US04540705
To a stirred suspension of 24 g (0.5 mole) of sodium hydride (50% in oil dispersion) in 750 ml of dimethoxyethane, cooled to 0° C., was added dropwise over a one hour period a solution of 112.1 g (0.5 mole) of triethyl phosphonoacetate [(C2H5)2OP(O)CH2CO2C2H5 ] in 140 ml of dimethoxyethane. The reaction mixture was maintained at about 15° C. during the addition and then stirred at room temperature for two hours. It was then cooled to 5° C. and treated dropwise with a solution of 68.7 g (0.386 mole) of 1-methyl-2-tetralone in 70 ml of dimethoxyethane over a period of one hour. The reaction mixture was stirred overnight, then cooled in an ice bath and acidified with 27 ml of glacial acetic acid. The mixture was poured into ice-water and the layers separated. The aqueous layer was extracted with cyclohexane, and the combined organic layers washed with water and saturated sodium chloride solution. The organic solution was dried over anhydrous magnesium sulfate and concentrated to give 95.8 g of ethyl 3,4-dihydro-1-methyl-2-naphthaleneacetate as a yellow liquid.

reactant | sodium hydride | 0.5 mole, 24 g | [H-].[Na+]
reactant | 1-methyl-2-tetralone | 0.386 mole, 68.7 g | CC1C(CCC2=CC=CC=C12)=O | C11H12O
reactant | acetic acid | 27 ml | C(C)(=O)O | C2H4O2
reactant | dimethoxyethane | 750 ml | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 140 ml | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 70 ml | C(OC)COC | C4H10O2
product | ethyl 3,4-dihydro-1-methyl-2-naphthaleneacetate | 95.8 g | CC1=C(CCC2=CC=CC=C12)CC(=O)OCC | C15H18O2
